US08802852B2
a) N-(2,6-diisopropylphenyl)-9-(6-tosyloxy-1-hexinyl)-perylene-3,4-dicarboxylic acid imide
To a degassed mixture of 2.40 g (4.32 mmoles) of N-(2,6-diisopropylphenyl)-9-bromo-perylene-3,4-dicarboxylic acid imide (synthesized according to WO2001016109) and 0.576 g (3.36 mmoles) of Cu(I) iodide in 72 ml dimethylformamide (DMF) and 144 ml methylene chloride were added 2.00 g (1.72 mmoles) of tetrakis(triphenylphosphino)-palladium (0), 2.09 g (2.88 ml, 2.05 mmol) triethylamine and a degassed solution of 1.82 g (7.20 mmol) p-toluensulfonic acid-5-hexinyl ester (synthesized according to (Y. Yang and T. M. Swager, Macromolecules 2006, 39, 2013-2015) in 12 ml methylene chloride. The reaction mixture was stirred for 90 minutes at room temperature, subsequently the solvent was evaporated until dryness and purified on silica gel (solvent: toluene:methylene chloride: 10:1 to 1:1). 2.04 g (65% of the theoretical yield) of a red solid were obtained.

reactant | N-(2,6-diisopropylphenyl)-9-bromo-perylene-3,4-dicarboxylic acid imide | 4.32 mmoles, 2.40 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C(O)C=1C=CC=2C=3C=CC=C4C(=CC=C(C5=CC=C(C1C52)C(=O)O)C43)Br | C34H28BrNO3
reactant | triethylamine | 2.05 mmol, 2.88 ml, 2.09 g | C(C)N(CC)CC | C6H15N
reactant | p-toluensulfonic acid-5-hexinyl ester | 7.20 mmol, 1.82 g | C(CCCC#C)OS(=O)(=O)C1=CC=C(C=C1)C | C13H16O3S
solvent | dimethylformamide | 72 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | 144 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
catalyst | tetrakis(triphenylphosphino)-palladium (0) | 1.72 mmoles, 2.00 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd-4](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | N-(2,6-diisopropylphenyl)-9-(6-tosyloxy-1-hexinyl)-perylene-3,4-dicarboxylic acid imide | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C(O)C=1C=CC=2C=3C=CC=C4C(=CC=C(C5=CC=C(C1C52)C(=O)O)C43)C#CCCCCOS(=O)(=O)C4=CC=C(C)C=C4 | C47H43NO6S
